US06194447B1
2-Amino-1-(4-aminophenyl)benzimidazole hydrochloride.
2-Amino-1-(4-acetamidophenyl)benzimidazole (1.78 g, 6.68 mmol) was refluxed in hydrochloric acid (25 ml) overnight. The crude mixture was evaporated and triturated with diethyl ether. Yield 1.68 g, 96%, M.p. 258-260° C.

reactant | 2-Amino-1-(4-acetamidophenyl)benzimidazole | 6.68 mmol, 1.78 g | NC1=NC2=C(N1C1=CC=C(C=C1)NC(C)=O)C=CC=C2 | C15H14N4O
reactant | hydrochloric acid | 25 ml | Cl | ClH
product | 2-Amino-1-(4-aminophenyl)benzimidazole hydrochloride | Cl.NC1=NC2=C(N1C1=CC=C(C=C1)N)C=CC=C2 | InChI=1S/C13H12N4.ClH/c14-9-5-7-10(8-6-9)17-12-4-2-1-3-11(12)16-13(17)15;/h1-8H,14H2,(H2,15,16);1H
